US06063782
7-(2,4-Difluorobenzyloxy)-2,3-dimethyl-1-(2-methylcyclopropylmethyl)pyrrolo[2,3-d]pyridazine
The title compound (trans) was prepared as a white powder in 63.8% yield in a similar procedure to that described in Example 1 by using 7-chloro-2,3-dimethyl-1-(2-methylcyclopropylmethyl)pyrrolo[2,3-d]pyridazine and 2,4-difluorobenzyl alcohol.

reactant | 7-chloro-2,3-dimethyl-1-(2-methylcyclopropylmethyl)pyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1N(C(=C2C)C)CC2C(C2)C | C13H16ClN3
reactant | 2,4-difluorobenzyl alcohol | FC1=C(CO)C=CC(=C1)F | C7H6F2O
product | 7-(2,4-Difluorobenzyloxy)-2,3-dimethyl-1-(2-methylcyclopropylmethyl)pyrrolo[2,3-d]pyridazine | 63.8% yield | FC1=C(COC=2N=NC=C3C2N(C(=C3C)C)CC3C(C3)C)C=CC(=C1)F | C20H21F2N3O
